US09062070B2
Step D: Trifluoromethanesulfonic acid 4-methyl-1-oxo-1,3-dihydro-isobenzofuran-5-yl ester
5-Hydroxy-4-methyl-3H-isobenzofuran-1-one (46.8 g, 285 mmol) was suspended in dichloromethane (935 mL) in 2-L roundbottom flask equipped with overhead stirrer under nitrogen. Triethylamine (59.5 mL, 427 mmol) was added, and the reaction mixture was cooled in an ice bath to 3.8° C. Trifluoromethanesulfonic anhydride (67.4 mL, 399 mmol) was added via addition funnel over 50 min, keeping the temperature<10° C. After stirring the reaction mixture for an additional 15 min, the reaction mixture was quenched with water (200 mL), then stirred with DARCO® KB (activated carbon, 25 g) for 15 min. The biphasic mixture was filtered over Solka Floc, washing with additional dichloromethane, and transferred to a separatory funnel, whereupon it was diluted with additional water (300 mL). The layers were separated, and the organic layer was washed with water (500 mL) and 10% brine (200 mL). The dichloromethane solution was dried over sodium sulfate, filtered and evaporated. The solid was adsorbed onto silica gel (27.5 g) and eluted through a pad of silica gel (271 g) with 25% ethyl acetate/hexanes. The resulting solution was concentrated under vacuum with the product precipitating during concentration. The suspension was filtered, the solid washed with heptane and dried under vacuum and nitrogen, providing the title compound.

reactant | 5-Hydroxy-4-methyl-3H-isobenzofuran-1-one | 285 mmol, 46.8 g | OC=1C(=C2COC(C2=CC1)=O)C | C9H8O3
reactant | Triethylamine | 427 mmol, 59.5 mL | C(C)N(CC)CC | C6H15N
reactant | Trifluoromethanesulfonic anhydride | 399 mmol, 67.4 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 935 mL | ClCCl | CH2Cl2
product | Trifluoromethanesulfonic acid 4-methyl-1-oxo-1,3-dihydro-isobenzofuran-5-yl ester | CC1=C2COC(C2=CC=C1OS(=O)(=O)C(F)(F)F)=O | C10H7F3O5S
